US04721798
Epoxidation of -3-carene
Δ-3-carene was epoxidized by the above-described procedure, using Di(acetate)3 as catalyst (1% based on the weight of Δ-3-carene) and ethyl acetate as solvent (volume ratio solvent to Δ-3-carene 3:1). The final mol ratio propionaldehyde to Δ-3-carene was 1.5:1, oxygen was bubbled through at a rate of 8 liters/hour, and reaction time was 4 hours.

reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | oxygen | O=O | O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-carene | C12CC(=CCC1C2(C)C)C | C10H16
